US04673746
To a solution of 52.23 g of 2,4-difluorobenzoylchloride in 200 ml of 1,2-dichloroethane, 40 g of AlCl3 is added over a 30 minute period. A solution of 48.3 g of 2,3-dichloroanisole in 100 ml 1,2-dichloroethane is added dropwise. There is a slow evolution of gas and the temperature rises to approximately 30° C. The reaction mixture is warmed to 43° C. and the gas continues to evolve for approximately 30 minutes. The mixture is poured over concentrated HCl and ice. The organic layer is separated and the aqueous layer is extracted two times with CHCl3. The combined organic layers are washed with water, dried (Na2SO4) and evaporated to give an oil. Trituration with hexane yields 2,3-dichloro-4-methoxy-2',4'-difluorobenzophenone which is recrystallized from ether, mp 139°-141° C.

reactant | 2,4-difluorobenzoylchloride | 52.23 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | AlCl3 | 40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2,3-dichloroanisole | 48.3 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | hexane | CCCCCC | C6H14
product | 2,3-dichloro-4-methoxy-2',4'-difluorobenzophenone | ClC1=C(C(=O)C2=C(C=C(C=C2)F)F)C=CC(=C1Cl)OC | C14H8Cl2F2O2
